US06376712B2
The second step of the process of the present invention was conducted as follows. At first, a 1-liter autoclave equipped with a mechanical stirrer was charged with 300 g (1.59 mol) of 4-trifluoromethylbenzaldehyde oxime, 460 g of 2-propanol, and 15 g of a catalyst (i.e., a carbon powder (50% wet) carrying thereon 5% palladium), followed by introduction of 40 g of liquid ammonia and then introduction of hydrogen to have a pressure of 1 MPa. Then, the reaction mixture was stirred, while the reaction temperature was maintained at 20° C. and while hydrogen was gradually introduced into the autoclave in a manner to maintain the total pressure at 1 MPa. After conducting the reaction for 4 hr, the reaction was stopped, followed by removing the catalyst by filtration. As a result of analyzing the obtained reaction liquid by gas chromatography, 4-trifluoromethylbenzylamine was formed at a yield of 92.6%.

reactant | 4-trifluoromethylbenzaldehyde oxime | 1.59 mol, 300 g | FC(C1=CC=C(C=NO)C=C1)(F)F | C8H6F3NO
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
solvent | 2-propanol | 460 g | CC(C)O | C3H8O
product | 4-trifluoromethylbenzylamine | yield of 92.6% | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
